US04026887
7-amino-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid butyryloxymethyl ester.
When in the procedure of Example 16 an appropriate amount of 7-amino-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid or the corresponding pivalyloxymethyl ester is substituted for 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid, 3-methyl-7-[[2-[4-(chloromethyl)phenyl]-2-aminoacetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid and 3-methyl-7-[[2-[4-(chloromethyl)phenyl]-2-aminoacetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid pivalyloxymethyl ester are obtained.

reactant | 7-amino-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | NC1C2SCC(=C(N2C1=O)C(=O)O)C | C8H10N2O3S
reactant | 3-[(acetyloxy)methyl]-7-amino-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C(C)(=O)OCC1=C(N2C(C(C2SC1)N)=O)C(=O)O | C10H12N2O5S
reactant | 3-methyl-7-[[2-[4-(chloromethyl)phenyl]-2-aminoacetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | CC1=C(N2C(C(C2SC1)NC(C(N)C1=CC=C(C=C1)CCl)=O)=O)C(=O)O | C17H18ClN3O4S
reactant | 3-methyl-7-[[2-[4-(chloromethyl)phenyl]-2-aminoacetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid pivalyloxymethyl ester | C(C(C)(C)C)(=O)OCOC(=O)C=1N2C(C(C2SCC1C)NC(C(N)C1=CC=C(C=C1)CCl)=O)=O | C23H28ClN3O6S
product | 7-amino-3-methyl-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid butyryloxymethyl ester | C(CCC)(=O)OCOC(=O)C=1N2C(C(C2SCC1C)N)=O | C13H18N2O5S
